US06620838B1
C. 3-(2-Chloro-4-trifluoromethylphenyl)-7-methoxy-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-chromen-2-one
A mixture of 3-(2-chloro-4-trifluoromethylphenyl)-4-(4-hydroxybenzyl)-7-methoxychromen-2-one (460 mg, 1 mmol), 1-(2-chloroethyl)pyrrolidine hydrochloride (254.7 mg, 1.5 mmol) and K2CO3 (413.9 mg, 2.99 mmol) in EtOH (5 mL) was stirred for 2 min prior to the addition of H2O (0.5 mL). The mixture was stirred at 55° C. for 2.5 h, after which time it was cooled to r.t. and poured into CHCl3—H2O. The layers were separated and the aqueous phase was extracted with CHCl3 (3×). The combined organic layers were washed with brine, dried (MgSO4) and the solvent was removed in vacuo. The resultant brown foam was purified using flash chromatography (silica gel, 19:1 CH2Cl2:MeOH) to provide the title compound as a pale brown foam which displayed: 1H NMR (300 MHz, CD3OD) δ 7.83 (s, 1H), 7.65 (d, 1H, J=9.0 Hz), 7.63 (d, 1H, J=8.0 Hz), 7.51 (d, 1H, J=8.0 Hz), 7.00 (d, 1H, J=2.5 Hz), 6.95 (d, 2H, J=8.5 Hz), 6.89 (dd, 1H, J=2.5, 9.0 Hz), 6.79 (d, 2H, J=8.5 Hz),), 4.07 (d, 1H, J=15.5 Hz), 4.05 (t, 2H, J=5.5 Hz), 3.90 (s, 3H), 3.83 (d, 1H, J=15.5 Hz), 2.89 (t, 2H, J=5.5 Hz), 2.72-2.60 (m, 4H), 1.90-1.75 (m, 4H). MS (ESI) m/z 558 (M+H)+.

reactant | 3-(2-chloro-4-trifluoromethylphenyl)-4-(4-hydroxybenzyl)-7-methoxychromen-2-one | 1 mmol, 460 mg | ClC1=C(C=CC(=C1)C(F)(F)F)C=1C(OC2=CC(=CC=C2C1CC1=CC=C(C=C1)O)OC)=O | C24H16ClF3O4
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | 1.5 mmol, 254.7 mg | Cl.ClCCN1CCCC1
reactant | K2CO3 | 2.99 mmol, 413.9 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | CHCl3—H2O | [2H]C(Cl)(Cl)Cl.O
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | H2O | 0.5 mL | O | H2O
product | 3-(2-Chloro-4-trifluoromethylphenyl)-7-methoxy-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-chromen-2-one | ClC1=C(C=CC(=C1)C(F)(F)F)C=1C(OC2=CC(=CC=C2C1CC1=CC=C(C=C1)OCCN1CCCC1)OC)=O | C30H27ClF3NO4
